US06040331
Synthesis of 8-chloro-2-(2-methoxyphenyl)-1,3,4,5-tetrahydrobenz[cd]indol-5-one
The procedure of Example 60, steps 1 to 3 was repeated using (5-carboxy-2-chlorophenyl)hydrazine hydrochloride (24.1 g) and (2-methoxybenzoyl)butyric acid (16 g) to yield 2.45 g (12%) of the titled compound as a yellow powder.

reactant | (5-carboxy-2-chlorophenyl)hydrazine hydrochloride | 24.1 g | Cl.C(=O)(O)C=1C=CC(=C(C1)NN)Cl
reactant | (2-methoxybenzoyl)butyric acid | 16 g | COC1=C(C(=O)C(C(=O)O)CC)C=CC=C1 | C12H14O4
product | 8-chloro-2-(2-methoxyphenyl)-1,3,4,5-tetrahydrobenz[cd]indol-5-one | 2.45 g, 12% | ClC1=CC=C2C=3C(=C(NC13)C1=C(C=CC=C1)OC)CCC2=O | C18H14ClNO2
